US08242139B2
4-(5-iodothiazol-2-yl)tetrahydro-2H-pyran-4-ol
To a cold (−78° C.) solution of thiazole (2.0 mL, 28.2 mmol) in tetrahydrofuran (140 mL) was added n-butyllithium (11.4 mL, 28.2 mmol, 2.48 M in hexane) dropwise. After 15 minutes, dihydro-2H-pyran-4(3H)-one (2.59 mL, 28.2 mmol) was added in a single portion. After 30 minutes, n-butyllithium (11.4 mL, 28.2 mmol, 2.48 M in hexane) was added dropwise. The reaction was allowed to stir for an additional 20 minutes, after which a solution of iodine (7.24 g, 28.2 mmol) in tetrahydrofuran (15 mL) was added dropwise. The reaction was then quenched by the addition of saturated aqueous Na2S2O3 and ethyl acetate (100 mL) and allowed to warm to ambient temperature. The layers were separated, and the aqueous was extracted with additional ethyl acetate (2×100 mL). The combined organics were dried with anhydrous Na2SO4, filtered, and concentrated to give a dark solid. Trituration of the residue with dichloromethane gave the title compound as a beije solid. MS (ESI) m/z 312[M+H]+.

reactant | thiazole | 28.2 mmol, 2.0 mL | S1C=NC=C1 | C3H3NS
reactant | n-butyllithium | 28.2 mmol, 2.48 M, 11.4 mL | C(CCC)[Li]
reactant | dihydro-2H-pyran-4(3H)-one | 28.2 mmol, 2.59 mL | O1CCC(CC1)=O | C5H8O2
reactant | n-butyllithium | 28.2 mmol, 2.48 M, 11.4 mL | C(CCC)[Li]
reactant | iodine | 28.2 mmol, 7.24 g | II | I2
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(5-iodothiazol-2-yl)tetrahydro-2H-pyran-4-ol | IC1=CN=C(S1)C1(CCOCC1)O | C8H10INO2S
